US07015233B2
1-(4-tert-butylphenyl)-3-chloro-1-propanone
A solution of tert-butyl benzene (31 ml, 200 mmol) and 3-chloro-propionyl chloride (19 ml, 200 mmol) in methylene chloride (75 ml) was added dropwise to a suspension of aluminum chloride (29.33 g, 220 mmol) in methylene chloride (300 ml) at 0° C. The reaction mixture was allowed to warm to ambient temperature, stirred for 16 hours, and quenched with water dropwise. The reaction mixture was washed with water, dried with magnesium sulfate, and the filtrate was evaporated under reduced pressure to provide the title compound which was used without further purification in the next step.

reactant | tert-butyl benzene | 200 mmol, 31 ml | C(C)(C)(C)C1=CC=CC=C1 | C10H14
reactant | 3-chloro-propionyl chloride | 200 mmol, 19 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | aluminum chloride | 220 mmol, 29.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-tert-butylphenyl)-3-chloro-1-propanone | C(C)(C)(C)C1=CC=C(C=C1)C(CCCl)=O | C13H17ClO
